US08859814B2
N-{3-(2-cyanophenyl)-1-[(4-methylpiperidin-1-yl)carbonyl]propyl}-1H -indole-4-sulfonamide
Example 70 is prepared from tert-butyl{3-(2-cyanophenyl)-1-[(4-methylpiperidin-1-yl)carbonyl]propyl}carbamate and indole-4-sulfonyl chloride in the same manner that Example 5 is synthesized. ESI MS Calc. 464.2; Found: 465.2 (M+H)+.

reactant | tert-butyl{3-(2-cyanophenyl)-1-[(4-methylpiperidin-1-yl)carbonyl]propyl}carbamate | C(C)(C)(C)OC(NC(CCC1=C(C=CC=C1)C#N)C(=O)N1CCC(CC1)C)=O | C22H31N3O3
reactant | indole-4-sulfonyl chloride | N1C=CC=2C(=CC=CC12)S(=O)(=O)Cl | C8H6ClNO2S
product | N-{3-(2-cyanophenyl)-1-[(4-methylpiperidin-1-yl)carbonyl]propyl}-1H -indole-4-sulfonamide | C(#N)C1=C(C=CC=C1)CCC(C(=O)N1CCC(CC1)C)NS(=O)(=O)C=1C=2C=CNC2C=CC1 | C25H28N4O3S
